US07592463B2
4-Methyl-1-[(1R , 2R, 3S, 4R)-3-methylbicyclo[2.2.1]hept-5-en-2-yl]-pentan-1-one (Table 2, Entry 4):
Prepared according to general procedure A from 7-methyloct-2-en-4-one (82 μL, 0.50 mmol), cyclopentadiene (62 μL, 0.75 mmol), 70% aqueous perchloric acid (8.6 μL, 0.10 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (27 mg, 0.10 mmol) in water (167 μL) for 38 hours at 0° C. Purification by silica gel chromatography (19:1 hexanes:ethyl acetate) provided the title compound as a colorless oil in 86% yield (89 mg, 0.43 mmol); 20:1 endo:exo, endo 92% ee. IR (film) 3061, 2957, 2870, 1708, 1462, 1367, 1332, 1269, 1141, 1107, 1064, 904.7, 799.8, 716.2 cm−1; 1H NMR (300 MHz, CDCl3) δ 6.20 (dd, J=5.7, 3.0 Hz, 1H, CH═CH), 5.87 (dd, J=5.7, 2.7 Hz, 1H, CH═CH), 3.11 (m, 1H, CHCH═CH), 2.43 (m, 1H, CHCH═CH), 2.39 (m, 3H, CHCO and CH2CO), 1.86 (m, 1H, CHCH3), 1.58-1.37 (m, 5H, COCH2CH2CH, CHCH2CH), 1.13 (d, J=6.9 Hz, 3H, CH2CH3), 0.86 (d, J=6.3 Hz, 6H, CH(CH3)2); 13C NMR (75 MHz, CDCl3) δ 211.5, 138.6, 132.6, 61.2, 49.3, 46.6,40.0,35.9, 32.9, 28.1, 22.8, 22.7, 21.4; HRMS (CI) exact mass calc'd for (C14H22O) requires m/z 206.1671, found m/z 206.1671. [α]D=+89.4 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (150° C., 23 psi); (1R, 2R, 3S, 4R) endo isomer tr=7.4 min, and (1S, 2S, 3R, 4S) endo isomer tr=7.1 min, exo isomers tr=6.6, 6.8 min.

reactant | 7-methyloct-2-en-4-one | 0.50 mmol, 82 μL | CC(CCC(C=CC)=O)C | C9H16O
reactant | cyclopentadiene | 0.75 mmol, 62 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.10 mmol, 8.6 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.10 mmol, 27 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
reactant | water | 167 μL | O | H2O
product | 4-Methyl-1-[(1R , 2R, 3S, 4R)-3-methylbicyclo[2.2.1]hept-5-en-2-yl]-pentan-1-one | 86% yield | CC(CCC(=O)[C@H]1[C@H]2C=C[C@H]([C@@H]1C)C2)C | C14H22O
